US08835470B2
(R/S)-2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid (Int-V, 30 mg, 0.070 mmol) was dissolved in DMF (1 mL) prior to the addition of N-methylmorpholine (0.031 mL, 0.278 mmol), tert-butyl 3-aminopropanoate-HCl (16.43 mg, 0.090 mmol), and EDC (17.33 mg, 0.090 mmol). This was stirred overnight before EtOAc and brine were added. The organic layer was washed with brine, 1N HCl, and sat NaHCO3. The organic layer was then dried (MgSO4), filtered, and concentrated. The resulting residue was dissolved in CH2Cl2 (1 mL) and TFA (2.0 mL). After 1 h, this was concentrated and then was purified by preparative HPLC (PHENOMENEX® Luna 5u C18 21.2×100 mm, gradient elution with Method 1—MeOH/water containing 0.1% trifluoroacetic acid as defined above, 0% B to 100% B over 10 min, 20 mL/min, 220 nM, retention time for product=12.4 min) (R/S)-tert-butyl 3-(2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamido)propanoate (10 mg, 0.018 mmol, 25.7% yield): LCMS=559.1 [M+H]+. This material was dissolved in CH2Cl2 (0.5 mL) prior to the addition of TFA (1 mL). After stirring for lh, the solution was concentrated to give (R/S)-3-(2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamido)propanoic acid (10 mg, 0.018 mmol, 98% yield): LCMS=503.0 [M+H]+; 1H NMR (400 MHz, methanol-d4) δ ppm 8.17 (2 H, d, J=8.35 Hz), 7.69 (4 H, d, J=7.91 Hz), 7.52-7.65 (3H, m), 5.11 (1 H, s), 3.50 (2 H, t, J=6.59 Hz), 2.54 (2 H, t, J=6.81 Hz); HPLC Peak RT=8.8 min (Analytical Method A).

reactant | (R/S)-2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid | 0.070 mmol, 30 mg | OC(C(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C20H12F3N3O5
reactant | N-methylmorpholine | 0.278 mmol, 0.031 mL | CN1CCOCC1 | C5H11NO
reactant | tert-butyl 3-aminopropanoate-HCl | 0.090 mmol, 16.43 mg | Cl.NCCC(=O)OC(C)(C)C
reactant | EDC | 0.090 mmol, 17.33 mg
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R/S)-tert-butyl 3-(2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamido)propanoate | 0.018 mmol, 10 mg, 25.7% yield | OC(C(=O)NCCC(=O)OC(C)(C)C)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C27H25F3N4O6
